* H:\Study\UPenn\2nd Semster\ESE 3190\LAB\Final Project\PreLab\PreLAB 10.asc
* Generated by LTspice 24.1.7 for Windows.
R1 N008 0 10k
R2 Vdd N003 100k
R3 Vdd N002 100k
C1 N002 N003 1013p
L1 N003 N002 10m
R4 Vdd Fixed_Oscillator 10k
R5 Vdd N005 10k
M2 N008 N002 N003 0 ALD1103N
M1 0 N003 N005 Vdd ALD1103P
M3 N008 N003 N002 0 ALD1103N
M4 0 N002 Fixed_Oscillator Vdd ALD1103P
R6 N013 0 10k
R7 Vdd N010 100k
R8 Vdd N009 100k
C2 N009 N010 1150p
L2 N010 N009 9.17m
R9 Vdd Variable_Oscillator 10k
R10 Vdd N011 10k
M5 N013 N009 N010 0 ALD1103N
M6 0 N010 N011 Vdd ALD1103P
M7 N013 N010 N009 0 ALD1103N
M8 0 N009 Variable_Oscillator Vdd ALD1103P
V3 Vdd 0 5
M9 N001 N001 Vdd Vdd ALD1103P
M10 Mixer_Diff_Out N001 Vdd Vdd ALD1103P
M11 N006 T9 N001 0 ALD1103N
M12 N006 N004 Mixer_Diff_Out 0 ALD1103N
M13 N006 TP10 0 0 ALD1103N
M14 TP10 TP10 0 0 ALD1103N
I1 Vdd TP10 0.05m
R11 Vdd T9 30k
R12 T9 0 10k
R13 N004 T9 1000k
C3 N007 N004 1nF
R14 Mixer_Diff_Out N007 100k
R15 Fixed_Oscillator N007 10k
R16 Variable_Oscillator N007 10k
M15 Mixer_CS_Output Mixer_Diff_Out Vdd Vdd ALD1103P
R17 Mixer_CS_Output 0 6k
R18 Mixer_Diff_Out 0 80k
R19 Vdd Mixer_Diff_Out 24k
R20 TP12 Mixer_CS_Output 100
C4 TP12 0 40n
R21 Vdd TP12 5k
R22 TP12 0 20k
M16 Mixer_Out TP12 Vdd Vdd ALD1103P
R23 Mixer_Out 0 2k
C6 N012 Mixer_Out 10µ
R24 Vdd N012 1k
R25 N012 0 22k
R26 V_speaker 0 8
X§M17 Vdd N012 V_speaker irlb8721pbf
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hesha\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ALD1103N.txt
.inc ALD1103P.txt
.lib irl.spi
.tran 10m
.backanno
.end
